US08030347B2
Methyl(4-bromophenyl)-(3,5-diethoxyphenoxy)acetate
20.0 g (110 mmol) of 3,5-diethoxyphenol and 30.7 g (99.8 mmol) of methyl bromo(4-bromophenyl)acetate are dissolved in 39 ml of 2-butanone under argon at RT, and 31.0 g (225 mmol) of potassium carbonate are added. The reaction mixture is heated under RF for 4 h. After cooling, the precipitate is filtered off with suction and washed with 2-butanone, and the filtrate is concentrated. Chromatography on silica gel 60 (mobile phase: toluene) results in 33.1 g (81% of theory) of the product.

reactant | 3,5-diethoxyphenol | 110 mmol, 20.0 g | C(C)OC=1C=C(C=C(C1)OCC)O | C10H14O3
reactant | methyl bromo(4-bromophenyl)acetate | 99.8 mmol, 30.7 g | BrC(C(=O)OC)C1=CC=C(C=C1)Br | C9H8Br2O2
reactant | potassium carbonate | 225 mmol, 31.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 39 ml | CC(CC)=O | C4H8O
product | Methyl(4-bromophenyl)-(3,5-diethoxyphenoxy)acetate | COC(C(OC1=CC(=CC(=C1)OCC)OCC)C1=CC=C(C=C1)Br)=O | C19H21BrO5
